US05877202
8-(t-Butoxycarbonyl)amino-octanoic acid methyl-butyl-amide
Combine 8-(t-butoxycarbonyl)amino-octanoic acid (1.28 g, 5 mmol), N-methylmorpholine (1.2 mL, 10 mmol), 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride salt (0.95 g, 5.0 mmol), methyl-butyl amine hydrochloride salt (5.0 mmol), and 4-hydroxybenztriazole hydrate (0.05 g) in dichloromethane (20 mL). After 4 hours, add water and extract with ethyl acetate. Dry the organic layer over MgSO4 and evaporate in vacuo to give the title compound.

reactant | 8-(t-butoxycarbonyl)amino-octanoic acid | 5 mmol, 1.28 g | C(C)(C)(C)OC(=O)NCCCCCCCC(=O)O | C13H25NO4
reactant | N-methylmorpholine | 10 mmol, 1.2 mL | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride salt | 5.0 mmol, 0.95 g | Cl.CN(CCCN=C=NCC)C
reactant | methyl-butyl amine hydrochloride salt | 5.0 mmol | Cl.CNCCCC
reactant | 4-hydroxybenztriazole hydrate | 0.05 g | O.OC1=CC=CC=2NN=NC21
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 8-(t-Butoxycarbonyl)amino-octanoic acid methyl-butyl-amide | CN(C(CCCCCCCNC(=O)OC(C)(C)C)=O)CCCC | C18H36N2O3
